US07199147B2
To a solution of 2,3-dimethyl-4-nitroanisole (1.04 g, 5.74 mmol) in methanol (20 ml) was added 10%-Pd/C (100 mg) at room temperature, and the resulting solution was stirred under a hydrogen atmosphere. After 1 hour, the reaction solution was filtered by the use of Celite and the filtrate was concentrated under reduced pressure and then dried. The residue was dissolved in ethyl acetate (10 ml), followed by adding thereto acetic anhydride (0.867 ml, 9.18 mmol), and the resulting mixture was refluxed. After 2 hours, hexane (70 ml) was poured into the reaction solution and the crystals formed were filtered under reduced pressure and then dried to obtain N-(4-methoxy-2,3-dimethylphenyl)acetamide (1.02 g, 92%).

reactant | 2,3-dimethyl-4-nitroanisole | 5.74 mmol, 1.04 g | CC1=C(C=CC(=C1C)[N+](=O)[O-])OC | C9H11NO3
reactant | acetic anhydride | 9.18 mmol, 0.867 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hexane | 70 ml | CCCCCC | C6H14
solvent | methanol | 20 ml | CO | CH4O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | N-(4-methoxy-2,3-dimethylphenyl)acetamide | 1.02 g, 92% | COC1=C(C(=C(C=C1)NC(C)=O)C)C | C11H15NO2
